US05420132
6-HYDROXY-2-(N-BUTYLANILINOCARBONYL)-I,4-BENZODIOXIN
That compound is obtained in a yield of 91% starting from N-butylaniline and 6-hydroxy-1,4-benzodioxin-2-carboxylic acid.

reactant | N-butylaniline | C(CCC)NC1=CC=CC=C1 | C10H15N
reactant | 6-hydroxy-1,4-benzodioxin-2-carboxylic acid | OC1=CC2=C(OC(=CO2)C(=O)O)C=C1 | C9H6O5
product | 6-HYDROXY-2-(N-BUTYLANILINOCARBONYL)-I,4-BENZODIOXIN | yield of 91% | OC1=CC2=C(OC(=CO2)C(=O)N(C2=CC=CC=C2)CCCC)C=C1 | C19H19NO4
